US05600006
20.48 g (0.03 mol) of 2,2'-bis(diphenylphosphinylmethyl)-1,1'-binaphthyl are suspended in 80 ml of xylene and 39.3 ml (0.165 mol) of tri-n-butylamine in the absence of air and moisture, and 19.4 g (0.15 mol) of ethyldichlorosilane are added dropwise with stirring. The mixture is then refluxed for 13 hours to give a clear solution. Xylene is distilled off at atmospheric pressure, and the mixture is allowed to cool with stirring. This results in the formation of 2,2'-bis(diphenylphosphinomethyl)-1,1'-binaphthyl as a colorless solid, which is filtered off under an inert gas and washed with 20 ml of degassed acetone. 18.5 g (95%) of colorless crystals of melting point 160° to 161° C. are obtained.

reactant | 2,2'-bis(diphenylphosphinylmethyl)-1,1'-binaphthyl | 0.03 mol, 20.48 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H36O2P2
reactant | tri-n-butylamine | 0.165 mol, 39.3 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | ethyldichlorosilane | 0.15 mol, 19.4 g | C(C)[SiH](Cl)Cl | C2H6Cl2Si
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2'-bis(diphenylphosphinomethyl)-1,1'-binaphthyl | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CP(C1=CC=CC=C1)C1=CC=CC=C1 | C46H36P2
